US07795267B2
(1,1-Dimethylethyl)tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxylate
To a solution of (1,1-dimethylethyl)3-(hydroxydiphenylmethyl)-1-piperazine carboxylate (9.6 g, 26 mmol) in N,N-dimethylformamide (180 mL) were added potassium carbonate (20 g, 0.14 mol) and ethyl chlorocarbonate (14 g, 0.26 mol), and the mixture was stirred at 50° C. for 16 hours. To the reaction solution were further added potassium carbonate (20 g, 0.14 mol) and ethyl chlorocarbonate (14 g, 0.26 mol), and the mixture was further stirred at 50° C. for 18 hours. To the reaction solution was added ice water, and the mixture was extracted with ethyl acetate. The extract was washed with water and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane:ethyl acetate=3:1) to obtain the title compound (6.9 g, yield 64%) as a solid.

reactant | (1,1-dimethylethyl)3-(hydroxydiphenylmethyl)-1-piperazine carboxylate | 26 mmol, 9.6 g | CC(C)(C)OC(=O)N1CC(NCC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O | C22H28N2O3
reactant | potassium carbonate | 0.14 mol, 20 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl chlorocarbonate | 0.26 mol, 14 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | potassium carbonate | 0.14 mol, 20 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl chlorocarbonate | 0.26 mol, 14 g | C(OCC)(=O)Cl | C3H5ClO2
solvent | N,N-dimethylformamide | 180 mL | CN(C=O)C | C3H7NO
product | (1,1-Dimethylethyl)tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxylate | 6.9 g, yield 64% | CC(C)(C)OC(=O)N1CC2N(CC1)C(OC2(C2=CC=CC=C2)C2=CC=CC=C2)=O | C23H26N2O4
